US07419984B2
Amino acetic acid-4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl ester
A solution of tert-butoxycarbonylamino-acetic acid 4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl ester in ethyl acetate (15 ml) was treated with a solution of hydrogen chloride in dioxane (4.0 M, 15 ml). After stirring for 16 hours, the solid was filtered and dried under reduced pressure to provide the hydrochloride salt of the title compound (0.273 g, 48% yield). 1H NMR (DMSO-d6) δ 1.39 (t, 3H, J=6.4 Hz, CH3), 3.89 (d, 2H, J=4.9 Hz, CH2), 4.17 (q, 2H, J=6.2 Hz, CH2), 5.25 (s, 2H, CH2), 6.70 (s, 1H, Ar), 7.28 (d, 1H, J=8.7 Hz, Ar), 7.46 (d, 2H, J=8.4 Hz, Ar), 7.62-7.67 (m, 2H, Ar), 7.88 (d, 2H, J=7.4 Hz, Ar), 8.37 (s, 3H), 11.10 (s, 1H), 12.68 (s, 1H).

reactant | tert-butoxycarbonylamino-acetic acid 4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl ester | NC1=NC(=CC(=N1)NC1=CC=C(COC(CNC(=O)OC(C)(C)C)=O)C=C1)C1=C(C=CC(=C1)Cl)OCC | C26H30ClN5O5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 4.0 M, 15 ml | O1CCOCC1 | C4H8O2
product | Amino acetic acid-4-[2-amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzyl ester | 0.273 g, 48% yield | NC1=NC(=CC(=N1)NC1=CC=C(COC(CN)=O)C=C1)C1=C(C=CC(=C1)Cl)OCC | C21H22ClN5O3
